US04353827
A suspension of 1.1 g (3 mmol) of (S)-1-[(8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl)carbonyl]imidazole in 10 ml of dry dimethylformamide is treated while stirring with 0.34 g (3 mmol) of potassium t-butylate, the mixture is stirred at room temperature for a further 30 minutes, then poured into 200 ml of water and extracted three times with chloroform. The chloroform solution is washed three times with water, dried over magnesium sulphate and evaporated. After crystallization from ethyl acetate, there is obtained t-butyl 8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 223°-225°.

reactant | (S)-1-[(8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl)carbonyl]imidazole | 3 mmol, 1.1 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14ClN5O2
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | t-butyl 8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1C(C=3N2C=NC3C(=O)OC(C)(C)C)CCC1)=O | C19H20ClN3O3
